US08076359B2
Step 4: Methyl 3-(benzyloxy)-5-[2-methoxyvinyl]benzoate
To a solution of (methoxymethyl)(triphenyl)phosphonium chloride (1.5 eq.) in THF (0.1 M) at −78° C. was added n-BuLi (1.5 eq.) dropwise. The reaction was stirred at −78° C. for 30 min and then added a solution of methyl 3-(benzyloxy)-5-formylbenzoate (1 eq.) from the previous step in THF. After stirring at rt for 40 min, the reaction was quenched with saturated aqueous NH4Cl solution. The aqueous layer was extracted with ether. The combined organic extracts were washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 15% EtOAc in Hex) to afford a mixture of E- and Z-methyl 3-(benzyloxy)-5-[2-methoxyvinyl]benzoate.

reactant | (methoxymethyl)(triphenyl)phosphonium chloride | 1.5 eq. | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 1.5 eq. | [Li]CCCC
reactant | methyl 3-(benzyloxy)-5-formylbenzoate | 1 eq. | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)C=O | C16H14O4
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
product | Methyl 3-(benzyloxy)-5-[2-methoxyvinyl]benzoate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)C=COC | C18H18O4
